US05773433
1,4-dichloro-2-nitrobenzene (31.6 g) was added to a mixture of 2,2'-dithiodi-benzaldehyde (41 g) and potassium carbonate (41.3 g) in methanol (820 ml) and the reaction mixture was stirred and refluxed for 2 hours. More 1,4-dichloro-2-nitrobenzene (31.6 g) was added and the reaction mixture was stirred and refluxed for 2 hours. Water was added and the mixture was extracted with CH2Cl2. The separated organic layer was evaporated and the residue was purified by open column chromatography over silica gel (eluent: hexane/EtOAc 97.5/2.5). The pure fractions were collected and the solvent evaporated, yielding 37 g (84%) of 2-[(4-chloro-2-nitrophenyl)thio]benzaldehyde (interm. 5).

reactant | 1,4-dichloro-2-nitrobenzene | 31.6 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | 2,2'-dithiodi-benzaldehyde | 41 g | C(C1=C(C=CC=C1)SSC1=C(C=O)C=CC=C1)=O | C14H10O2S2
reactant | potassium carbonate | 41.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dichloro-2-nitrobenzene | 31.6 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | Water | O | H2O
solvent | methanol | 820 ml | CO | CH4O
product | 2-[(4-chloro-2-nitrophenyl)thio]benzaldehyde | 37 g, 84% | ClC1=CC(=C(C=C1)SC1=C(C=O)C=CC=C1)[N+](=O)[O-] | C13H8ClNO3S
